US03950525
C. 4-Chloro-6-phenylpyrimidine (III; Ar = C6H5 ; R3 = H)
4-Hydroxy-6-phenylpyrimidine (2.1 g.) is added to phosphorous oxychloride (60 ml.) and refluxed for 1.5 hours. Excess phosphorous oxychloride is removed in vacuo, and the dark oil poured over concentrated ammonium hydroxide/ice. The precipitate which forms is filtered, washed with water and dried, 2.1 g., m.p. 95°-98° C.

reactant | 4-Hydroxy-6-phenylpyrimidine | 2.1 g | OC1=NC=NC(=C1)C1=CC=CC=C1 | C10H8N2O
reactant | phosphorous oxychloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-phenylpyrimidine | ClC1=NC=NC(=C1)C1=CC=CC=C1 | C10H7ClN2
